US03975384
6-Ethoxy-5-nitro-2-piperazino-4-(1-oxido-thiomorpholino)-pyrimidine
2 gm (6 millimols) of 2,6-di-ethoxy-5-nitro-4-(1-oxido-thiomorpholino)-pyrimidine (m.p. 130°-132°C) were heated together with 8.6 gm (100 millimols) of piperazine at 125°C for 4 hours. The reaction mixture was then poured over ice, and the crystals formed thereby were suction-filtered off and recrystallized from ethanol. Yield: 0.53 gm (23.6% of theory); m.p. 221°-222°C.

reactant | 2,6-di-ethoxy-5-nitro-4-(1-oxido-thiomorpholino)-pyrimidine | 6 millimols, 2 gm | C(C)OC1=NC(=C(C(=N1)N1CCS(CC1)=O)[N+](=O)[O-])OCC | C12H18N4O5S
reactant | piperazine | 100 millimols, 8.6 gm | N1CCNCC1 | C4H10N2
product | 6-Ethoxy-5-nitro-2-piperazino-4-(1-oxido-thiomorpholino)-pyrimidine | C(C)OC1=C(C(=NC(=N1)N1CCNCC1)N1CCS(CC1)=O)[N+](=O)[O-] | C14H22N6O4S
